US07247626B2
To a cold (0° C.) solution of 4-[2-(3-chlorophenyl)-7-(methylthio)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine (40 mg, 0.0915 mmol) in dichloromethane (3 mL) was added m-chloroperoxybenzoic acid (24 mg, 0.139 mmol). The reaction mixture was stirred 1.5 hours at 0° C. then diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration provided a crude oil which was heated in cyclopentylamine (2 mL, 20 mmol) at 85° C. in a sealed tube for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic layer was washed with brine and dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1 to 3:1 hexanes:ethyl acetate) provided 2-(3-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-c]pyrimidin-7-amine (28 mg, 65%) as a beige solid. Rf 0.27 (3:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 8.09 (d, 1H), 7.78 (d, 1H), 7.71 (s, 1H), 7.51–7.35 (m, 4H), 6.41 (d, 1H), 6.30 (d, 1H), 5.15 (d, 1H), 4.53 (m, 1H), 4.29 (m, 1H), 2.20 (m, 2H), 2.04 (m, 2H), 1.83–1.50 (m, 12 H); MS m/z 474 (M+1).

reactant | 4-[2-(3-chlorophenyl)-7-(methylthio)pyrazolo[1,5-c]pyrimidin-3-yl]-N-cyclopentylpyrimidin-2-amine | 0.0915 mmol, 40 mg | ClC=1C=C(C=CC1)C1=NN2C(=NC=CC2=C1C1=NC(=NC=C1)NC1CCCC1)SC | C22H21ClN6S
reactant | m-chloroperoxybenzoic acid | 0.139 mmol, 24 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | cyclopentylamine | 20 mmol, 2 mL | C1(CCCC1)N | C5H11N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-chlorophenyl)-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-c]pyrimidin-7-amine | 28 mg, 65% | ClC=1C=C(C=CC1)C1=NN2C(=NC=CC2=C1C1=NC(=NC=C1)NC1CCCC1)NC1CCCC1 | C26H28ClN7
